US06800637B2
N-[3-(5-Fluoro-1H-indol-3-yl)propyl]-N-methyl-N-(2-methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl)amine
To a solution of [3-(5-fluoro-1H-indol-3-yl)-propyl]-(2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]napthalen-8-ylmethyl)-amine (0.05 g, 0.13 mmol) and formaldehyde (37 wt. % in water, 0.1 g, 1.3 mmol) in methanol (10 mL) was added sodium cyanoborohydride (0.014 g, 0.23 mmol) and acetic acid (0.01 g, 0.26 mmol) at room temperature. The mixture was stirred at room temperature under nitrogen overnight, then quenched with 1N NaOH (5 mL). The mixture was extracted with methylene chloride (3×40 mL). The organic layer was washed with water (3×30 mL), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. The crude oil was column chromatographed on silica gel (5% methanol-methylene chloride). The product-containing fractions were concentrated in vacuum to give 48 mg of the (S)-enantiomer of the title compound as a brown oil. The dihydrochloride salt was prepared in ethyl acetate as a white solid, m.p. 136-139° C.

reactant | [3-(5-fluoro-1H-indol-3-yl)-propyl]-(2-methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]napthalen-8-ylmethyl)-amine | 0.13 mmol, 0.05 g | FC=1C=C2C(=CNC2=CC1)CCCNCC1COC2=CC=C3C(=C2O1)OC(=N3)C | C22H22FN3O3
reactant | formaldehyde | 1.3 mmol, 0.1 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.23 mmol, 0.014 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 0.26 mmol, 0.01 g | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
product | N-[3-(5-Fluoro-1H-indol-3-yl)propyl]-N-methyl-N-(2-methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl)amine | FC=1C=C2C(=CNC2=CC1)CCCN(CC1OC2=C(C=CC=3N=C(OC32)C)OC1)C | C23H24FN3O3
